US05455255
Ethanethiol (0.82 ml, 11.26 mmol) was added to a suspension of aluminium chloride (0.99 g, 7.42 mmol) in chloroform (20 ml) at 0° C. The mixture was stirred for 10 minutes then a solution of 4-isopropyl-6-methoxy 2-(2,3,5,6-tetrafluoro-4-pyridyl) 1,2-benzisothiazol-3(2H)-one 1,1-dioxide (0.5 g, 1.73 mmol) in chloroform (10 ml) was added. The mixture was stirred at room temperature for 2-3 hours, then at reflux for 48 hours. The mixture was then cooled, poured over ice-water, acidified with dilute hydrochloric acid and then extracted with ethyl acetate. The organic layer was washed with water, then brine, and then was dried over sodium sulfate. The solvent was removed in vacuo and the residue was purified by column chromatography on silica eluting with 40% ethyl acetate/hexane to afford 0.3 g (62%) of 4-isopropyl-6-hydroxy-2-(2,3,5,6-tetrafluoro-4-pyridyl)-1,2-benzisothiazol-1,2-benzisothiazol-3(2H)-one 1,1-dioxide, m.p. 164.5°-165.5° C.

reactant | Ethanethiol | 11.26 mmol, 0.82 ml | C(C)S | C2H6S
reactant | aluminium chloride | 7.42 mmol, 0.99 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 4-isopropyl-6-methoxy 2-(2,3,5,6-tetrafluoro-4-pyridyl) 1,2-benzisothiazol-3(2H)-one 1,1-dioxide | 1.73 mmol, 0.5 g | C(C)(C)C1=CC(=CC2=C1C(N(S2(=O)=O)C2=C(C(=NC(=C2F)F)F)F)=O)OC | C16H12F4N2O4S
reactant | hydrochloric acid | Cl | ClH
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-isopropyl-6-hydroxy-2-(2,3,5,6-tetrafluoro-4-pyridyl)-1,2-benzisothiazol 1,2-benzisothiazol-3(2H)-one 1,1-dioxide | 0.3 g, 62% | C(C)(C)C1=CC(=CC2=C1CN(S2)C2=C(C(=NC(=C2F)F)F)F)O.S1(NC(C2=C1C=CC=C2)=O)(=O)=O | InChI=1S/C15H12F4N2OS.C7H5NO3S/c1-6(2)8-3-7(22)4-10-9(8)5-21(23-10)13-11(16)14(18)20-15(19)12(13)17;9-7-5-3-1-2-4-6(5)12(10,11)8-7/h3-4,6,22H,5H2,1-2H3;1-4H,(H,8,9)
